US08685974B2
A mixture of 1-(4,5-dibromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one (9.6 mmol) and hydrazine hydrate (14.3 mmol) in 22 mL ethanol was refluxed for 15 h and then allowed to cool to room temperature. The solvent was evaporated under reduced pressure and dried in vacuum to afford 2.94 g (100% yield) 3-(4,5-dibromo-2-thienyl)-1H-pyrazole which was used in the next step without further purification.

reactant | 1-(4,5-dibromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one | 9.6 mmol | BrC=1C=C(SC1Br)C(C=CN(C)C)=O | C9H9Br2NOS
reactant | hydrazine hydrate | 14.3 mmol | O.NN
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | 3-(4,5-dibromo-2-thienyl)-1H-pyrazole | 2.94 g, 100% yield | BrC=1C=C(SC1Br)C1=NNC=C1 | C7H4Br2N2S
